US08686048B2
Intermediate 37: 3,3′,5-trifluoro-5′-methoxybiphenyl-4-amine
The title compound (51 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 3-fluoro-5-methoxyphenylboronic acid (106 mg, 0.62 mmol) as a yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.35 (dd, J 2.1, 8.1, 2H), 7.06 (d, J10.2, 1H), 7.01 (s, 1H), 6.71 (dd, J 2, 8.8, 1H), 5.42 (s, 2H), 3.81 (s, 3H).

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-fluoro-5-methoxyphenylboronic acid | 0.62 mmol, 106 mg | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
product | 3,3′,5-trifluoro-5′-methoxybiphenyl-4-amine | 51 mg | FC=1C=C(C=C(C1N)F)C1=CC(=CC(=C1)OC)F | C13H10F3NO
